US05977362
42.5 g of 4-chloroanthranilic acid were dissolved in 250 ml of N-methylpyrrolidone and 29.5 g of phenyl isocyanate were added dropwise at room temperature in 30 minutes. The mixture was further stirred for 5 hours at 80° C. and then 24.5 g of concentrated sulphuric acid were added dropwise in the course of 1 hour. The mixture was then further stirred at 80° C. for 3 hours, then cooled to room temperature, 500 ml of water were added, the product precipitated out was filtered off by suction, washed with water and dried in a vacuum drying cabinet. In this manner 57.4 g (85% of theory) of pure 3-phenyl-7-chloro-quinazoline-2,4-dione were obtained having a melting point of above 300° C.

reactant | 4-chloroanthranilic acid | 42.5 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | phenyl isocyanate | 29.5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | sulphuric acid | 24.5 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 500 ml | O | H2O
solvent | N-methylpyrrolidone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | 3-phenyl-7-chloro-quinazoline-2,4-dione | 57.4 g, 85% | C1(=CC=CC=C1)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C14H9ClN2O2
